* ---------------------------------------------------------------------------
* Demo circuit #1 -- NMOS current mirror
*
*        vdd ----+---------------+
*                |               |
*              IREF            R1 125k
*                |               |
*              nref ----+----- out
*                |      |        |
*             M1 |-+    +------|-| M2      (gates tied, sources at 0)
*                |               |
*               gnd            gnd
*
* M1 is diode-connected and sets the gate voltage; M2 copies the current.
* Threshold mismatch between M1 and M2 translates directly into a copy error,
* which is the quantity this project is built to characterise.
* ---------------------------------------------------------------------------
.title NMOS Current Mirror
* --- simplified 180 nm-class model cards -----------------------------------
* Square-law (SPICE level-1 class) cards with plausible 180 nm numbers.
* NOT a foundry PDK and not silicon-calibrated -- see docs/limitations.md.
* Mismatch: AVT in V*um, ABETA dimensionless*um (Pelgrom, see docs/pelgrom.md).
.model NCH NMOS
+ VTO=0.45 KP=246u LAMBDA=0.08 GAMMA=0.40 PHI=0.80
+ TOX=4.1n CGSO=2.4e-10 CGDO=2.4e-10
+ TNOM=27 TCV=-0.9m BEX=-1.5
+ AVT=3.5m ABETA=0.010

.model PCH PMOS
+ VTO=-0.45 KP=86u LAMBDA=0.10 GAMMA=0.45 PHI=0.85
+ TOX=4.1n CGSO=2.6e-10 CGDO=2.6e-10
+ TNOM=27 TCV=-0.9m BEX=-1.5
+ AVT=4.2m ABETA=0.012

.param IB=10u
.param WM=10u
.param LM=1u

VDD  vdd 0    1.8
IREF vdd nref {IB}

M1 nref nref 0 0 NCH W={WM} L={LM} MATCH=MIRROR
M2 out  nref 0 0 NCH W={WM} L={LM} MATCH=MIRROR

R1 vdd out 125k

.op

.measure iref  I(M1)
.measure iout  I(M2)
.measure vgs   V(nref)
.measure vout  V(out)
.measure ratio EXPR iout/iref
.measure ierr  EXPR 100*(iout-iref)/iref
.measure ptot  P(total)

.spec ierr <= 2%
.spec ierr >= -2%
.spec ptot <= 100u
.end
