* ---------------------------------------------------------------------------
* Demo circuit #2 -- NMOS resistively-loaded differential pair
*
*      vdd --+--------+--------+
*            |        |        |
*           RL1      RL2       |
*            |        |        |
*          outp     outn       |
*            |        |        |
*   inp --|[ M1      M2 ]|-- inn
*            |        |
*            +---tail-+
*                |
*              ITAIL
*                |
*               gnd
*
* Headline demonstration: the distribution of INPUT-REFERRED OFFSET VOLTAGE.
* With M1 and M2 nominally identical the offset is zero; threshold and current-
* factor mismatch between them produce the offset spread that limits every
* comparator and amplifier built from this cell.
*
* Vos is measured, not modelled: two DC solves give the output imbalance and
* the differential gain, and Vos = -Vod0 / Ad.
* ---------------------------------------------------------------------------
.title NMOS Differential Pair
* --- simplified 180 nm-class model cards -----------------------------------
* Square-law (SPICE level-1 class) cards with plausible 180 nm numbers.
* NOT a foundry PDK and not silicon-calibrated -- see docs/limitations.md.
* Mismatch: AVT in V*um, ABETA dimensionless*um (Pelgrom, see docs/pelgrom.md).
.model NCH NMOS
+ VTO=0.45 KP=246u LAMBDA=0.08 GAMMA=0.40 PHI=0.80
+ TOX=4.1n CGSO=2.4e-10 CGDO=2.4e-10
+ TNOM=27 TCV=-0.9m BEX=-1.5
+ AVT=3.5m ABETA=0.010

.model PCH PMOS
+ VTO=-0.45 KP=86u LAMBDA=0.10 GAMMA=0.45 PHI=0.85
+ TOX=4.1n CGSO=2.6e-10 CGDO=2.6e-10
+ TNOM=27 TCV=-0.9m BEX=-1.5
+ AVT=4.2m ABETA=0.012

.param ITAIL=20u
.param WIN=20u
.param LIN=1u
.param RLOAD=50k

VDD  vdd 0 1.8
VINP inp 0 DC 0.9 AC  0.5
VINN inn 0 DC 0.9 AC -0.5

M1 outp inp tail 0 NCH W={WIN} L={LIN} MATCH=DIFFPAIR
M2 outn inn tail 0 NCH W={WIN} L={LIN} MATCH=DIFFPAIR

ITAIL tail 0 {ITAIL}

RL1 vdd outp {RLOAD}
RL2 vdd outn {RLOAD}

.op
.ac dec 10 1 1G

.measure voutp V(outp)
.measure voutn V(outn)
.measure vtail V(tail)
.measure vod   EXPR voutp - voutn
.measure id1   I(M1)
.measure id2   I(M2)
.measure imbal EXPR 100*(id1-id2)/(0.5*(id1+id2))
.measure vos   VOS srcp=VINP srcn=VINN outp=outp outn=outn
.measure ad    GAIN in=inp out=outp
.measure ptot  P(total)

.spec vos <= 2m
.spec vos >= -2m
.spec ad  >= 20
.spec ptot <= 60u
.end
