* ---------------------------------------------------------------------------
* Diode bias reference -- exercises the exponential device and pnjlim limiting
*
*   vdd 1.8 --- R1 10k --- a --- D1 --- gnd
*
* The operating point is the solution of the transcendental pair
*   I  = (VDD - Va) / R1
*   Va = N*Vt*ln(I/IS) + I*RS
* which the Newton-Raphson solver must find from a cold start.  At 27 degC
* this gives roughly Va = 0.60 V and I = 120 uA.
*
* RS is realised internally as an explicit series resistor on an auto-created
* internal node, so the exponential element itself stays a two-terminal device.
* ---------------------------------------------------------------------------
.title Diode Bias Reference

.model DX D IS=1e-14 N=1.0 RS=5 CJ0=0.5p VJ=0.7 M=0.5

VDD vdd 0 1.8
R1  vdd a  10k
D1  a   0  DX

.op

.measure va   V(a)
.measure id1  I(D1)
.measure ptot P(total)

.spec va <= 0.75
.spec va >= 0.45
.end
