* ---------------------------------------------------------------------------
* CMOS inverter -- transient demonstration
*
*        vdd
*         |
*     M1 -| PMOS
*  in ----+---- out ---- CL
*     M2 -| NMOS
*         |
*        gnd
*
* Drives a 1 pF load with a 1.8 V pulse and measures the edge rates.  Mismatch
* between M1 and M2 skews the pull-up and pull-down strengths, so the rise and
* fall times acquire distributions -- the timing analogue of the current-mirror
* copy error.
*
* Transient analysis here is fixed-step (see docs/limitations.md): TSTEP must
* be small compared with the edge you are measuring.  20 ps against a ~1 ns
* edge gives ~50 points per transition.
* ---------------------------------------------------------------------------
.title CMOS Inverter Transient
* --- simplified 180 nm-class model cards -----------------------------------
.model NCH NMOS
+ VTO=0.45 KP=246u LAMBDA=0.08 GAMMA=0.40 PHI=0.80
+ TOX=4.1n CGSO=2.4e-10 CGDO=2.4e-10
+ TNOM=27 TCV=-0.9m BEX=-1.5
+ AVT=3.5m ABETA=0.010

.model PCH PMOS
+ VTO=-0.45 KP=86u LAMBDA=0.10 GAMMA=0.45 PHI=0.85
+ TOX=4.1n CGSO=2.6e-10 CGDO=2.6e-10
+ TNOM=27 TCV=-0.9m BEX=-1.5
+ AVT=4.2m ABETA=0.012

VDD vdd 0 1.8
VIN in  0 DC 0 PULSE(0 1.8 1n 50p 50p 3n 8n)

M1 out in vdd vdd PCH W=8u L=0.5u
M2 out in 0   0   NCH W=4u L=0.5u
CL out 0 1p

.op
.tran 20p 8n

.measure tfall FALLTIME node=out tstart=0.5n tstop=3.6n
.measure trise RISETIME node=out tstart=3.8n tstop=8n
.measure vhigh VMAX node=out
.measure vlow  VMIN node=out
.measure skew  EXPR 100*(trise-tfall)/(0.5*(trise+tfall))

.spec trise <= 1.6n
.spec tfall <= 1.6n
.spec vlow  <= 20m
.end
