* ---------------------------------------------------------------------------
* Analytical validation circuit -- resistive divider
*
*   V1 5V --- R1 1k --- mid --- R2 3k --- gnd
*
* Closed-form answers the simulator must reproduce exactly:
*   I      = 5 V / 4 kohm       = 1.25 mA
*   V(mid) = 5 V * 3k / 4k      = 3.75 V
*   P      = 5 V * 1.25 mA      = 6.25 mW
*
* Used by tests/test_analytical.py as the Ohm's-law reference for the MNA
* assembly and by the Monte Carlo layer as a case whose output distribution
* can be predicted in closed form from the resistor tolerances.
* ---------------------------------------------------------------------------
.title Resistive Divider

V1 in 0 5
R1 in  mid 1k
R2 mid 0   3k

.op

.measure vmid V(mid)
.measure i1   I(R1)
.measure pr2  P(R2)
.measure ptot P(total)
.measure ratio EXPR vmid/5

.spec vmid <= 3.9
.spec vmid >= 3.6
.end
