* ---------------------------------------------------------------------------
* Demo circuit #3 -- two-stage Miller-compensated CMOS operational amplifier
*
*   Stage 1 : NMOS differential pair M1/M2, PMOS mirror load M3/M4, tail M5
*   Stage 2 : PMOS common source M6 loaded by NMOS current sink M7
*   Comp.   : Miller capacitor CC from out back to n2, with nulling resistor
*             RZ ~ 1/gm6 that pushes the right-half-plane zero out of the way
*   Bias    : IBIAS + diode-connected M8 mirror the tail and second-stage sinks
*
* TESTBENCH: DC-closed / AC-open loop.
*   RFB (10 G) closes unity-gain feedback at DC, which parks the output at the
*   input common mode instead of at a rail -- essential once mismatch is
*   injected, because an open-loop 85 dB amplifier with a few mV of offset
*   saturates.  CFB (10 mF) grounds the feedback node for AC, so every AC
*   measurement above ~1 Hz sees the true OPEN-loop response
*   (loop gain through RFB/CFB at 1 Hz is ~3e-5, i.e. negligible).
*
* Offset is reported input-referred and corrected for finite loop gain:
*   Vout*(1+A) = A*(Vin + Vos)  =>  Vos = Vout + Vout/A - Vin
* ---------------------------------------------------------------------------
.title Two-Stage Miller OTA
* --- simplified 180 nm-class model cards -----------------------------------
* Square-law (SPICE level-1 class) cards with plausible 180 nm numbers.
* NOT a foundry PDK and not silicon-calibrated -- see docs/limitations.md.
* Mismatch: AVT in V*um, ABETA dimensionless*um (Pelgrom, see docs/pelgrom.md).
.model NCH NMOS
+ VTO=0.45 KP=246u LAMBDA=0.08 GAMMA=0.40 PHI=0.80
+ TOX=4.1n CGSO=2.4e-10 CGDO=2.4e-10
+ TNOM=27 TCV=-0.9m BEX=-1.5
+ AVT=3.5m ABETA=0.010

.model PCH PMOS
+ VTO=-0.45 KP=86u LAMBDA=0.10 GAMMA=0.45 PHI=0.85
+ TOX=4.1n CGSO=2.6e-10 CGDO=2.6e-10
+ TNOM=27 TCV=-0.9m BEX=-1.5
+ AVT=4.2m ABETA=0.012

.param IB=20u
.param WIN=20u
.param LCH=1u

VDD  vdd 0 1.8
VINP inp 0 DC 0.9 AC 1

* --- bias chain -----------------------------------------------------------
IBIAS vdd nbias {IB}
M8 nbias nbias 0 0 NCH W=10u L={LCH} MATCH=BIASMIR
M5 tail  nbias 0 0 NCH W=10u L={LCH} MATCH=BIASMIR
M7 out   nbias 0 0 NCH W=20u L={LCH} MATCH=BIASMIR

* --- stage 1: differential pair with mirror load ---------------------------
M1 n1 inn tail 0 NCH W={WIN} L={LCH} MATCH=INPAIR
M2 n2 inp tail 0 NCH W={WIN} L={LCH} MATCH=INPAIR
M3 n1 n1 vdd vdd PCH W=20u L={LCH} MATCH=LOADMIR
M4 n2 n1 vdd vdd PCH W=20u L={LCH} MATCH=LOADMIR

* --- stage 2: PMOS common source, Miller compensated ------------------------
M6 out n2 vdd vdd PCH W=80u L={LCH}
RZ n2  nz 2k
CC nz  out 2p
CL out 0  1p

* --- DC-closed / AC-open feedback network ----------------------------------
RFB out inn 10G
CFB inn 0  10m

.op
.ac dec 12 1 1G

.measure vout  V(out)
.measure vin   V(inp)
.measure vn1   V(n1)
.measure vn2   V(n2)
.measure av    GAIN in=inp out=out
.measure avlin GAIN in=inp out=out units=lin
.measure ugf   UGF in=inp out=out
.measure pm    PM  in=inp out=out
.measure bw    BW  in=inp out=out
.measure id6   I(M6)
.measure ptot  P(total)
.measure vos   EXPR vout + vout/avlin - vin

.spec av   >= 70
.spec ugf  >= 10MEG
.spec pm   >= 45
.spec vos  <= 10m
.spec vos  >= -10m
.spec ptot <= 250u
.end
